US04000165
A mixture of 1.0 g. of 1,1,2,2-tetraacetylethane in 10 ml. of concentrated hydrochloric acid was stirred at room temperature for about 1 hour until a clear solution was obtained. The mixture was then poured onto ice and extracted with diethyl ether. The extracts were dried over sodium sulfate, taken to dryness, and the residue recrystallized from hexane to give 2,5-dimethyl-3,4-diacetylfuran, m.p. 75°-77° C.

reactant | 1,1,2,2-tetraacetylethane | C(C)(=O)C(C(C(C)=O)C(C)=O)C(C)=O | C10H14O4
reactant | hydrochloric acid | Cl | ClH
product | 2,5-dimethyl-3,4-diacetylfuran | CC=1OC(=C(C1C(C)=O)C(C)=O)C | C10H12O3
